US07851493B2
420 mg {4-Methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazol-5-yl}-methanol were dissolved in 5 ml dichloromethane and cooled in an ice bath. 0.32 ml triethylamine were added, followed by the addition of 141 μl methanesulfonylchloride. The ice bath was removed and the resulting mixture stirred at room temperature over night. 50 ml dichloromethane were added and the reaction mixture was then washed with water and brine, dried over MgSO4 and the solvent removed in vacuo to obtain 491 mg 5-chloromethyl-4-methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazole as an oil which was used without further purification.

reactant | {4-Methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazol-5-yl}-methanol | 420 mg | COCC=1N=C(OC1CO)C=CC1=CC=C(C=C1)OC | C15H17NO4
reactant | triethylamine | 0.32 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 141 μl | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-chloromethyl-4-methoxymethyl-2-[2-(4-methoxy-phenyl)-vinyl]-oxazole | 491 mg | ClCC1=C(N=C(O1)C=CC1=CC=C(C=C1)OC)COC | C15H16ClNO3
